US09290517B2
Step A: 2-[(3aR,6R,6aS)-6-[6-chloro-5-(4-phenylphenyl)-1-(2-trimethylsilylethoxy-methyl)-imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-yl]acetamide
Concentrated ammonium hydroxide (0.15 mL) was added to a solution of ethyl 2-[(3aR,6R,6aS)-6-[6-chloro-5-(4-phenylphenyl)-1-(2-trimethylsilylethoxymethyl)-imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-yl]acetate (41.1 mg, 0.063 mmol) in ethanol (0.5 mL). The solution was stirred for 29 hours in a 50 degree oil bath. After cooling to room temperature, additional concentrated ammonium hydroxide (0.3 mL) was added and the mixture was heated for an additional 24 hours in a 50 degree oil bath. The solvents were removed under vacuum to give the title compound. C32H37ClN4O5Si 620.22 observed m/e: 621.38 (M+H)+ (Rt 0.98/2 min)

reactant | ammonium hydroxide | 0.15 mL | [OH-].[NH4+]
reactant | ethyl 2-[(3aR,6R,6aS)-6-[6-chloro-5-(4-phenylphenyl)-1-(2-trimethylsilylethoxymethyl)-imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-yl]acetate | 0.063 mmol, 41.1 mg | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=CC=C1)N=C(N2COCC[Si](C)(C)C)O[C@@H]2CO[C@H]1[C@@H]2OCC1CC(=O)OCC | C34H40ClN3O6Si
reactant | ammonium hydroxide | 0.3 mL | [OH-].[NH4+]
solvent | ethanol | 0.5 mL | C(C)O | C2H6O
product | 2-[(3aR,6R,6aS)-6-[6-chloro-5-(4-phenylphenyl)-1-(2-trimethylsilylethoxy-methyl)-imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-yl]acetamide | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=CC=C1)N=C(N2COCC[Si](C)(C)C)O[C@@H]2CO[C@H]1[C@@H]2OCC1CC(=O)N | C32H37ClN4O5Si
